US07572792B2
A sample of tert-butyl 3-cyano-3-pyridin-2-ylazetidine-1-carboxylate (I-2, 485 mg, 1.9 mmol) was treated with HCl (20 mL of a 4.0 M solution in dioxane) and stirred at room temperature for 2 h before being concentrated under reduced pressure to afford 3-pyridin-2-ylazetidine-3-carbonitrile hydrochloride (365 mg, 99%) which was used without further purification.

reactant | tert-butyl 3-cyano-3-pyridin-2-ylazetidine-1-carboxylate | 1.9 mmol, 485 mg | C(#N)C1(CN(C1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C14H17N3O2
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-pyridin-2-ylazetidine-3-carbonitrile hydrochloride | 365 mg, 99% | Cl.N1=C(C=CC=C1)C1(CNC1)C#N | InChI=1S/C9H9N3.ClH/c10-5-9(6-11-7-9)8-3-1-2-4-12-8;/h1-4,11H,6-7H2;1H
